US08025918B2
MAPTAC/Vinyl Pyrrolidone/SiAM 15/75/10 Copolymer Cast on PET
A polyethylene terephthalate (PET) surface is coated with an 8% solids solution of MAPTAC/VP/SiAM 15/75/10 of Example 1a (1.5 mL of solution on a 5 cm*5 cm PET sheet, spin coating 1500 rpm, 15 s). The solvent used is a water/isopropyl alcohol mixture (70/30), in order to have a sufficient wetting of the PET sheet by the solution. After 7 days of drying in 75% RH atmosphere, a contact angle of 140° is measured with water.

reactant | MAPTAC | CC(=C)C(=O)NCCC[N+](C)(C)C.[Cl-]
reactant | PET | C(C1=CC=C(C(=O)O)C=C1)(=O)O.C(C[*:2])[*:1]
reactant | water isopropyl alcohol | O.C(C)(C)O
product | MAPTAC Vinyl Pyrrolidone | CC(=C)C(=O)NCCC[N+](C)(C)C.[Cl-].C(=C)N1C(CCC1)=O | InChI=1S/C10H20N2O.C6H9NO.ClH/c1-9(2)10(13)11-7-6-8-12(3,4)5;1-2-7-5-3-4-6(7)8;/h1,6-8H2,2-5H3;2H,1,3-5H2;1H
